US04263319
A stirred solution of 149.0 g (0.456 mole) of diethyl (2-phenylbenzyl)malonate and 56.1 g (1.0 mole) of potassium hydroxide in 50 ml of water and 500 ml of ethanol was heated under reflux for 3 hours. The reaction mixture was allowed to cool to ambient temperature and stand for 60 hours. The ethanol was removed by distillation and the residue slurried in 400 ml of water. The mixture was extracted with one portion of 250 ml of diethyl ether. The aqueous phase was separated and acidified with concentrated hydrochloric acid, then extracted with two portions of 250 ml each of diethyl ether. The two extracts of the acidified aqueous phase were combined, dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give (2-phenylbenzyl)malonic acid as a pale yellow oil. The oil was used directly in the next step of this reaction sequence.

reactant | diethyl (2-phenylbenzyl)malonate | 0.456 mole, 149.0 g | C1(=CC=CC=C1)C1=C(CC(C(=O)OCC)C(=O)OCC)C=CC=C1 | C20H22O4
reactant | potassium hydroxide | 1.0 mole, 56.1 g | [OH-].[K+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (2-phenylbenzyl)malonic acid | C1(=CC=CC=C1)C1=C(CC(C(=O)O)C(=O)O)C=CC=C1 | C16H14O4
